US04070366
Tetramethyl-pyrrole
As in Example 58, using 2,3-dimethyl-pyrrole (2 g), acetic acid (50 ml), hydriodic acid (50 ml), hypophosphorous acid (5 ml) and paraformaldehyde (1.2 g). Yield 51%, m.p. 105°-107°. Anal. Found: C, 77.81; H, 10.32; N, 11.45.

reactant | 2,3-dimethyl-pyrrole | 2 g | CC=1NC=CC1C | C6H9N
reactant | hydriodic acid | 50 ml | I | HI
reactant | hypophosphorous acid | 5 ml | [PH2](=O)O | H3O2P
reactant | paraformaldehyde | 1.2 g | C=O | CH2O
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | Tetramethyl-pyrrole | Yield 51% | CC1=C(C(=C(N1)C)C)C | C8H13N
